### PR TITLE
[Merged by Bors] - refactor: Add norm_num machinery for NNRat

### PR DESCRIPTION
**Pull request by eric-wieser**
This splits the previous `isRat` primitive into `isNNRat` and `isNegNNRat`, where only the latter carries around a `DivisionRing` instance.

This means that `norm_num` works on `NNReal` and `NNRat`.

Co-authored-by: Aaron Liu <aaronliu2008@outlook.com>

---

- [x] depends on: #9951

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by plp127** [comment]
@eric-wieser it builds now

**Comment by eric-wieser** [comment]
!bench

File: Mathlib/Tactic/Ring/RingNF.lean [hunk 1]
```diff
@@ -120,8 +120,8 @@ theorem nat_rawCast_0 : (Nat.rawCast 0 : R) = 0 := by simp
 theorem nat_rawCast_1 : (Nat.rawCast 1 : R) = 1 := by simp
 theorem nat_rawCast_2 [Nat.AtLeastTwo n] : (Nat.rawCast n : R) = OfNat.ofNat n := rfl
 theorem int_rawCast_neg {R} [Ring R] : (Int.rawCast (.negOfNat n) : R) = -Nat.rawCast n := by simp
-theorem rat_rawCast_pos {R} [DivisionRing R] :
-    (Rat.rawCast (.ofNat n) d : R) = Nat.rawCast n / Nat.rawCast d := by simp
+theorem nnrat_rawCast {R} [DivisionRing R] :
```
Comment (eric-wieser) [inline Mathlib/Tactic/Ring/RingNF.lean]:
```suggestion
theorem nnrat_rawCast {R} [DivisionSemiring R] :
```

File: Mathlib/Tactic/NormNum/Basic.lean [hunk 2]
```diff
@@ -209,13 +230,18 @@ such that `norm_num` successfully recognises both `a` and `b`. -/
...
+  | .isNegNat _ .., .isNat _ .. | .isNegNat _ .., .isNegNat _ .. | .isNegNat _ .., .isNNRat _ ..
+    | .isNegNat _ .., .isNegNNRat _ ..
+  | .isNNRat _ .., .isNat _ .. | .isNNRat _ .., .isNegNat _ .. | .isNNRat _ .., .isNNRat _ ..
+    | .isNNRat _ .., .isNegNNRat _ ..
+  | .isNegNNRat _ .., .isNat _ .. | .isNegNNRat _ .., .isNegNat _ ..
+    | .isNegNNRat _ .., .isNNRat _ .. | .isNegNNRat _ .., .isNegNNRat _ .. =>
     guard <|← withNewMCtxDepth <| isDefEq f q(HAdd.hAdd (α := $α))
   let rec
   /-- Main part of `evalAdd`. -/
-  core : Option (Result e) := do
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/Basic.lean:218]: @digama0, do you think we should preserve the `Option` here and return one of `MetaM (Option (Result e))` or `OptionT MetaM (Result e)`?

Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/Basic.lean:218]: I had a look into this, I think the change is more invasive and ultimately doesn't buy us anything. It probably comes at a runtime cost too.

**Comment by kim-em** [comment]
bors merge
